US04128548
Methyl 2,2-dimethyl-4-(p-methoxyphenyl)-3-(p-toluenesulphonamido)butyrate
To a solution of 251 g of methyl 3-amino-2,2-dimethyl-4-(p-methoxyphenyl)butyrate and 121 g of triethylamine in 750 ml of chloroform, there is added, with mechanical stirring and cooling with ice water, a solution of 210 g of p-toluenesulphonyl chloride in 500 ml of chloroform. After completion of the addition, which is carried out at such a rate that the temperature of the reaction mixture does not exceed 25° C., stirring is continued for 1.5 hours. Then the solution is washed with water, dilute hydrochloric acid and again with water, subsequently. After drying, the organic solvent is stripped off in vacuo. The residue is treated with ether, resulting in the crystallization of the title compound.

reactant | methyl 3-amino-2,2-dimethyl-4-(p-methoxyphenyl)butyrate | 251 g | NC(C(C(=O)OC)(C)C)CC1=CC=C(C=C1)OC | C14H21NO3
reactant | triethylamine | 121 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulphonyl chloride | 210 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 750 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 2,2-dimethyl-4-(p-methoxyphenyl)-3-(p-toluenesulphonamido)butyrate | Yield 85% | CC(C(=O)OC)(C(CC1=CC=C(C=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)C)C | C21H27NO5S
